US05041453
A solution-suspension of 2-cyano-6-[3-(2-quinolinylmethyloxy)phenoxymethyl]benzoxazole (660 mg, 1.62 mmol), sodium azide (316.3 mg, 4.86 mmol) and ammonium chloride (260.2 mg, 4.86 mmol) in DMF (11 ml) is heated to 110° C. for 5 hours and stirred at room temperature for 12 hours. The mixture is poured over ice-water and the pH adjusted to 10 with 1N NaOH. The aqueous mixture is washed with ether and the pH adjusted to 4 with 1N HCl. The precipitated solid is filtered and washed successively with water, ethanol and methylene chloride. Recrystallization from ethanol-DMF affords 5-(6-(3-(2-quinolinylmethyloxy)phenoxymethyl)benzoxazol-2-yl)tetrazole (M.P. 223-225° C. dec.).

reactant | 2-cyano-6-[3-(2-quinolinylmethyloxy)phenoxymethyl]benzoxazole | 1.62 mmol, 660 mg | C(#N)C=1OC2=C(N1)C=CC(=C2)COC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2 | C25H17N3O3
reactant | sodium azide | 4.86 mmol, 316.3 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.86 mmol, 260.2 mg | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
product | 5-(6-(3-(2-quinolinylmethyloxy)phenoxymethyl)benzoxazol-2-yl)tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(OCC2=CC3=C(N=C(O3)C3=NN=NN3)C=C2)C=CC1 | C25H18N6O3
